US06987114B1
1-[3,5-Bis(trifluoromethyl)benzyl]-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 3,5-bis(trifluoromethyl)benzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (195 mg, yield: 37.8%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
product | 1-[3,5-Bis(trifluoromethyl)benzyl]-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 195 mg, yield: 37.8% | FC(C=1C=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C(C1)C(F)(F)F)(F)F | C24H22F6N2O2S
